US07235574B2
viii) 4-[4-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
A mixture of 98 mg 4-[4-(4-{2-[(E)-2-(-4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1-trityl-1H-[1,2,3]triazole, 100 μl formic acid, 10 μl water and 1.0 ml tetrahydrofuran was stirred at 60° C. for 21 h. After removal of solvents in vacuo 4-[4-(4-{2-[(E)-2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole was obtained by HPLC-MS-purification.

reactant | 4-[4-(4-{2-[(E)-2-(-4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1-trityl-1H-[1,2,3]triazole | 98 mg | FS(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCC=1N=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)(F)(F)F | C43H37F5N4O2S
reactant | formic acid | 100 μl | C(=O)O | CH2O2
reactant | water | 10 μl | O | H2O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | 4-[4-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | FS(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCC=1N=NNC1)(F)(F)(F)F | C24H23F5N4O2S
